US06949542B2
(4-Chloro-5-fluoro-2-nitro-phenyl)-carbamic acid tert-butyl ester
The title compound was prepared via the di-Boc-compound from 4-chloro-5-fluoro-2-nitro-phenylamine [prepared by chlorination of 5-fluoro-2-nitroaniline [CAS-No. 2369-11-1] with NCS in isopropanol at 60° C. according to Synlett 1999, 1984] (12.94 g, 67.9 mmol) and Boc2O (30.38 g, 139.2 mmol), followed by treatment with 2 eq. TFA in CH2Cl2 according to the general procedure A (method c). Obtained as a yellow solid (17.06 g, 86%).

reactant | 4-chloro-5-fluoro-2-nitro-phenylamine | 67.9 mmol, 12.94 g | ClC1=CC(=C(C=C1F)N)[N+](=O)[O-] | C6H4ClFN2O2
reactant | Boc2O | 139.2 mmol, 30.38 g | CC(C)(C)OC(=O)OC(=O)OC(C)(C)C | C10H18O5
reactant | TFA | C(=O)(C(F)(F)F)O | C2HF3O2
solvent | CH2Cl2 | C(Cl)Cl | CH2Cl2
product | (4-Chloro-5-fluoro-2-nitro-phenyl)-carbamic acid tert-butyl ester | C(C)(C)(C)OC(NC1=C(C=C(C(=C1)F)Cl)[N+](=O)[O-])=O | C11H12ClFN2O4
